Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypoxia, extensive lower extremity edema 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is an ___ year old gentleman with history of atrial 
fibrillation, CHF (unknown EF), Alzheimer's dementia presenting 
with new onset hypoxia and lower extremity edema to waist. 

Patient has advanced dementia and was not able to provide 
significant history. He was sent in from his skilled nursing 
facility for new hypoxia. Per discussion with staff at ___ 
___, patient was ambulating with cane but over the past week 
has been progressively short of breath with increase in ___ edema 
which is normally limited to edema to the knee.
 
 
Past Medical History:
Alzheimer's, 
atrial fibrillation, paroxysmal 
peripheral edema
question of head injury
anemia
glaucoma
latent syphilis 
microhematuria
incontinence
venous stasis
cellulitis, lower extremities

 
Social History:
___
Family History:
Anemias, coronary artery disease, hypertension,
colitis, ___.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vital Signs:  
97.5 PO 124 / 80 70 18 100 RA 
General: Alert, not oriented, very pleasant and comfortable 
appearing speaking in full sentences, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple  
CV: irregularly irregular, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: crackles at bilateral bases, no wheezes, rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: foley in place with 1L yellow urine; penile edema without 
erythema 
Ext: Warm, well perfused, 2+ pulses, 4+ edema to hips 
bilaterally; bilateral venous stasis changes to mid shin, no 
overlying erythema or purulent drainage
Neuro: axoxo, moving all 4 extremities without deficit 

DISCHARGE PHYSICAL EXAM:
========================
Vital Signs: 
T97.8 BP 130/74 (107-130/52-77) HR 63 (60-78) RR 18 98% RA
I/O= 1480/3325 (-1.6L) yesterday, ___ (-960) since MN
Weight: 99.1->96.1
General: Alert, not oriented, very pleasant and comfortable 
appearing speaking in full sentences, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple  
CV: irregularly irregular, normal S1 + S2, no murmurs, rubs, 
gallops, JVD to midneck
Lungs: crackles on the left bases, decreased breath sounds at 
right base, no wheezes, rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: foley in place with yellow urine; penile edema without 
erythema 
Ext: Warm, well perfused, 2+ pulses, 2+ pitting edema to hips 
bilaterally; bilateral venous stasis changes to mid shin, no 
overlying erythema or purulent drainage
Neuro: AOx1, moving all 4 extremities without deficit 
 
Pertinent Results:
ADMISSION LABS:
==============
___ 12:10AM BLOOD WBC-9.7 RBC-3.47* Hgb-11.0* Hct-34.3* 
MCV-99* MCH-31.7 MCHC-32.1 RDW-16.7* RDWSD-60.2* Plt ___
___ 12:10AM BLOOD Neuts-68.3 Lymphs-16.5* Monos-13.2* 
Eos-1.3 Baso-0.4 Im ___ AbsNeut-6.64* AbsLymp-1.61 
AbsMono-1.29* AbsEos-0.13 AbsBaso-0.04
___ 12:10AM BLOOD ___ PTT-33.9 ___
___ 12:10AM BLOOD Glucose-100 UreaN-21* Creat-1.0 Na-140 
K-3.7 Cl-101 HCO3-25 AnGap-18
___ 12:10AM BLOOD ALT-10 AST-22 LD(LDH)-265* CK(CPK)-51 
AlkPhos-101 TotBili-1.9* DirBili-0.5* IndBili-1.4
___ 12:10AM BLOOD CK-MB-3 proBNP-4569*
___ 12:10AM BLOOD cTropnT-0.03*
___ 07:00AM BLOOD CK-MB-2 cTropnT-0.03*
___ 12:10AM BLOOD Albumin-3.6 Calcium-9.0 Phos-3.3 Mg-2.1
___ 12:10AM BLOOD Hapto-174
___ 12:10AM BLOOD TSH-5.9*

DISCHARGE LABS:
==============
___ 07:25AM BLOOD WBC-6.6 RBC-3.30* Hgb-10.4* Hct-32.9* 
MCV-100* MCH-31.5 MCHC-31.6* RDW-16.5* RDWSD-60.3* Plt ___
___ 07:15AM BLOOD Neuts-57.6 ___ Monos-15.9* 
Eos-3.7 Baso-0.5 Im ___ AbsNeut-3.79 AbsLymp-1.45 
AbsMono-1.04* AbsEos-0.24 AbsBaso-0.03
___ 07:25AM BLOOD Plt ___
___ 07:25AM BLOOD ___ PTT-31.5 ___
___ 07:25AM BLOOD Glucose-78 UreaN-20 Creat-1.0 Na-139 
K-3.7 Cl-100 HCO3-28 AnGap-15
___ 07:15AM BLOOD ALT-8 AST-20 LD(LDH)-224 AlkPhos-82 
TotBili-1.5
___ 07:25AM BLOOD Calcium-8.6 Phos-3.0 Mg-2.1
___ 12:10AM BLOOD TSH-5.9*

MICROBIOLOGY: 

Cdiff negative

URINE CULTURE (Final ___: 
      ___.    10,000-100,000 CFU/mL. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ___
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------     1 S
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------   256 R
TOBRAMYCIN------------     2 S
TRIMETHOPRIM/SULFA----  =>16 R
 
IMAGING & STUDIES:  

ECHO ___:
The left atrium is markedly dilated. The right atrium is 
markedly dilated. Left ventricular wall thickness, cavity size 
and regional/global systolic function are normal (LVEF >55%). 
Right ventricular chamber size and free wall motion are normal. 
The ascending aorta is mildly dilated. The aortic valve leaflets 
(3) are mildly thickened but aortic stenosis is not present. The 
mitral valve leaflets are mildly thickened. Mild to moderate 
(___) mitral regurgitation is seen. Moderate [2+] tricuspid 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial effusion. 

IMPRESSION: Normal global and regional biventricular systolic 
function. Mild to moderate mitral regurgitation. Moderate 
tricuspid regurgitation. Pleural effusions. 
___ CXR: volume overload/heart failure

Admission ECG:  afib, rate 80, NA, NI, t wave flattening in 
lateral leads

 
Brief Hospital Course:
Mr. ___ is an ___ year old gentleman with history of atrial 
fibrillation, CHF, Alzheimer's dementia who presents with 
hypoxia and lower extremity edema found to be grossly volume 
overloaded on exam and CXR with elevated BNP consistent with 
acute on chronic heart failure exacerbation.

# Acute on Chronic Heart Failure Exacerbation: On admission, 
patient was found to be grossly volume overloaded with 4+ 
pitting edema to the sacrum. Patients CXR was notable for volume 
overload/heart failure. Concern on admission was for an acute 
exacerbation, with possible etiologies including exacerbation 
due to arrhythmia with known atrial fibrillation, ischemia (with 
mildly elevated troponin of 0.03, stable x 2) and infection with 
possible UTI. Other less common contributing factors would be 
dietary indiscretion and medication non compliance. Patient was 
started on IV Lasix 40mg x2 in the ED, and was diuresed with 
Lasix IV 40mg x2 on the floor, with good output of >-5L while on 
the floor. Patient was transitioned to Torsemide 40mg daily 
which he tolerated well with good urine output. ECHO was 
obtained on this admission which was notable for mild to 
moderate MR, moderate TR, pleural effusions but otherwise normal 
global and regional biventricular systolic function with no wall 
motion abnormalities and preserved EF of 55%. Patient was 
aggressively diuresed with IV Lasix 80 and then transitioned to 
po torsemide 40 BID, but was hypotensive on ___ with concern 
for SIRS/sepsis vs over-diuresis. Patients diuresis was held in 
this setting, and was also held due to BRBPR and hematuria (see 
below). Following resolution of these episodes (per below), 
patient was monitored on tele and he was diuresed with torsemide 
20mg BID, which he tolerated well, with active diuresis but no 
further episodes of hypotension. Plan was made for pt to be 
discharged on torsemide 20mg BID and to continue diuresis at his 
___ facility, with plan to monitor daily weights and decrease 
torsemide dosage as appropriate. Patient was started on 
Lisinopril 2.5mg daily while, which he did NOT tolerate well due 
to hypotension. Beta blocker was not initiated on this admission 
due to preserved EF and absence of tachycardia. Patient will be 
continued to have weights monitored at ___ with 
titration of his diuretics as necessary. 

#UTI: On admission, patient did not have clear urinary symptoms. 
UA was notable with few bacteria though no nitrates and no 
blood. Patient received 1 dose ceftriaxone in ED, and urine 
culture with ___ GNRs noted on UA. Urine culture grew 
MORGANELLA MORGANII, which sensitivities above. Patient was 
started on Levofloxaxin 500 daily for 7 days (___). At 
the time of discharge, patient had completed his full course. 

#Atrial Fibrillation: On admission, patient was not on 
medications for rate control. He was monitored on telemetry to 
ensure rate adequately controlled without medications, and 
patient remained in Afib but with rate well below <110. Patients 
CHADS2 = was at least 2 for CHF and age >___. However, due to 
patients BRBPR and continued hematuria (microscopic hematuria as 
outpatient, macroscopic this admission), patients rivaroxaban 
was discontinued on this admission.

#BRBPR, resolved: during this admission, patient had 1x episode 
of gross blood per rectum staining found mixed with stool. 
Likely a lower GI bleed, in setting of coagulopathy evidenced by 
patients elevated INR of 2.0 while also on rivaroxaban, aspirin 
and had with low platelets. Patients bleeding was likely due to 
anti-platelet, anticoagulation agents and underlying 
coagulopathy potentially causing bleeding. Patient had Negative 
DIC workup, and his rivaroxaban and aspiring was held, and he 
was given Vitamin K 2.5mg po with improvement in INR. Patients 
Hgb was trended,and remained stable between 9.8-10.3. After 
holding aspirin and rivaroxaban and improving pts INR, patient 
had no further episodes of blood per rectum. At the time of 
discharge, Hgb improved to 10.4.

# Hematuria, resolved: patient had episode of gross hematuria 
after starting aspirin, while on rivaroxaban, in setting of 
elevated INR and low platelets. Per above, patient may have 
underlying coagulopathy exacerbated by medication intervention. 
Other etiologies noted by urology is prostate bleeding. Patient 
was seen by urology, who noted that patient had a full workup 
for hematuria within the last 2 weeks with negative cytology, 
negative renal ultrasound
and negative cystoscopy. A 20fr 3-way foley was placed, with 
small amount of blood but mostly clear urine. Patient had 
episode of clots in urine which required manual flush. Foley 
remained in place for 3 days to tamponade likely prostatic 
bleeding. Patient self d/c'ed foley, which was replaced by 
urology, and CBI was held. After resolution of hematuria, 
patients foley was discontinued, and he underwent a voiding 
trial in which he was able to void ___ while retaining 250cc. 

#Tropinemia, resolved: During this admission, patient had EKG 
with T wave inversions in the lateral leads. In setting of 
possible PNA vs aspiration pneumonitis, possible etiologies 
include demand ischemia. Troponin peaked to 0.11, now 
downtrending to 0.9 Pts troponin bump may also be influenced by 
decreased renal function in setting of diuresis. Troponin 
downtrending. Patient was started on atorvastatin 40mg. Due to 
bleeding risk, aspirin was held on this admission. Pts 
betablocker was held due to concern for hypotension. 

#Anemia: On admission, patient had macrocytic anemia with H/H of 
___. Patient recently underwent workup for microhematuria 
which may be the source of his blood loss, although patient is 
s/p 2 urine cytology specimens negative for malignancy, with 
normal cystoscopy. Patients differential included B12 
deficiency, hypothyroidism, malignancy, alcohol use. 
Alternatively patient has elevated bilirubin with indirect 
predominance raising concern for hemolysis. Retic count, LDH, 
haptoglobin all within normal limits. Pts TSH elevated although 
unclear in the setting of acute illness, will need to followup 
free T3/free T4 (can be done as outpatient).

#Hyperbilirubimemia: Patient had persistently mildly elevated 
bilirubin with indirect predominance. Differential included CHF 
exacerbation with impaired hepatic bilirubin uptake, as well as 
hemolysis. Patients retic count was normal on this admission, 
with no hemolysis. Patients daily labs were trended during this 
admission.

#BPH: On this admission, patient was s/p benign cystoscopy on 
___. Patient was not initiated on new therapy this admission, 
but plan was made to consider alpha blocker or finasteride per 
Dr. ___ note as an outpatient.

#CAD: On this admission, unclear if patient has known CAD due to 
lack of records and lack of information from family who had just 
moved him from a long term care facility in ___ to ___. Baby 
Aspirin, statin was deferred pending followup documentation from 
previous providers if in keeping with family's wishes (currently 
DNR/DNI).

# CODE: MOLST with patient on arrival, DNR/DNI 
# CONTACT: sister ___ ___

TRANSITIONAL ISSUES:
====================
- Please obtain serum electrolytes (chem 10 panel) on ___ 
___ as patients was started on Toresmide 20mg BID and is 
diuresing currently. Please fax these results to: Dr. ___ 
___ at fax: ___ 
- Please obtain daily weights, and reduce torsemide 20mg BID as 
appropriate. Patient was discharged with improved edema, and 
will require gentle diuresis over the next few weeks with his 
current dose of oral torsemide
- He will likely require titration of diuretics to lower dose 
once closer to dry weight (follow up labs weekly)
- Patient was not started on a betablocker on this admission for 
his Afib, as he had good HR control without medication. Can 
consider low dose betablocker in the future for rate control 
<110 if needed
- Please continue to hold aspirin and rivaroxaban due to 
bleeding on this admission and after discussion in patients 
family. If anticoagulation is necessary, patients family has 
noted that pt has tolerated Aspirin 81mg daily in the past 
without issue
- Can consider tamsulosin 0.4mg as an outpatient if patient has 
urinary retention
- Consider finasteride if patient does not have resolution of 
hematuria 
- Please consider checking TSH and free T3/free T4 as 
outpatient. Pt had elevated TSH on this admission, unclear if 
due to acute illness.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyanocobalamin 1000 mcg PO DAILY 
2. Vitamin D 1000 UNIT PO DAILY 
3. Rivaroxaban 15 mg PO DAILY 
4. Furosemide 40 mg PO DAILY 
5. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
6. TraZODone 25 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Torsemide 20 mg PO BID 
RX *torsemide 20 mg 1 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0 
3.  Cyanocobalamin 1000 mcg PO DAILY  
4.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
5.  TraZODone 25 mg PO QHS:PRN insomnia  
6.  Vitamin D 1000 UNIT PO DAILY  
7. HELD- Rivaroxaban 15 mg PO DAILY  This medication was held. 
Do not restart Rivaroxaban until seeing your doctor. It was 
stopped in the hospital because you had blood in your urine and 
stool. Your doctor and family should discuss if and when to 
restart this medication.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Mitral Regurgitation with (diastolic) Congestive heart failure

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your admission at 
___. 

You were admitted due to swelling in your legs and pelvis, which 
had made it difficult for you to walk as well as shortness of 
breath. When you presented to the hospital, you had evidence of 
large volume of fluid in your legs, likely due to uncontrolled 
heart failure. You were given medication for you to remove this 
fluid from your body by urinating. You did well on this 
medication, and the lower extremity swelling in your legs 
decreased. Furthermore, you had less shortness of breath while 
you were ambulating. 

Furthermore, on this admission, you had bleeding in your stool 
and bleeding in your urine. Your home rivaroxaban and the 
aspirin you had been given was stopped on this admission, and 
you were given Vitamin K to help with your ability to form 
clots. You tolerated this regimen well, and had no further 
episodes of bleeding in your urine or stool during this 
admission. You will require close followup with a cardiologist, 
and appointments have been arranged on your behalf below.

Lastly, you were treated for a urinary tract infection with IV 
and oral antibiotics. You tolerated this therapy well, and you 
had no evidence of bacteria in your urine on repeat urine 
cultures. You completed your antibiotic regimen prior to leaving 
the hospital.

Please followup at the appointments that have been arranged on 
your behalf below.

Once again, it was a pleasure taking care of you during your 
stay. We wish you the best of luck!

Your ___ care team

 
Followup Instructions:
___